US04904815
12.2 Parts of 2,6-dimethylphenol, 5.3 parts of citronellyl n-butyl ether, and 1.0 parts of 70% perchloric acid in 30 parts of methylene chloride were stored at room temperature for 3 days. The reaction mixture after pouring into water was extracted with ether, and the ether solution washed with sodium bicarbonate solution, then water and evaporated. Distillation of the residual oil gave 1-n-butyloxy-7-(4-hydroxy-3,5-dimethyl-phenyl)-3,7-dimethyl-octane as a fraction with b0.8, 168°-76° C.

reactant | 2,6-dimethylphenol | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | citronellyl n-butyl ether | C(CCC)OCCC(C)CCC=C(C)C | C14H28O
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-n-butyloxy-7-(4-hydroxy-3,5-dimethyl-phenyl)-3,7-dimethyl-octane | C(CCC)OCCC(CCCC(C)(C)C1=CC(=C(C(=C1)C)O)C)C | C22H38O2
